### PR TITLE
[Merged by Bors] - chore: split operator monotonicity results to privately import integration results

### PR DESCRIPTION
**Pull request by dupuisf**
This PR splits the file `Mathlib.Analysis.SpecialFunctions.ContinuousFunctionalCalculus.Rpow.IntegralRepresentation` to split off operator monotonicity results into their own file (called `Order`). This allows us to privately
import the results about CFC integration since they are rather heavy and only used as a proof technique.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 1]
```diff
@@ -38,7 +39,10 @@ lemma CFC.tendsto_cfc_rpow_sub_one_log {a : A} (ha : IsStrictlyPositive a := by
     Tendsto (fun p : ℝ => cfc (fun x => p⁻¹ * (x ^ p - 1)) a) (𝓝[>] 0) (𝓝 (CFC.log a)) := by
   refine tendsto_cfc_fun ?tendsto ?cont
   case cont =>
-    exact .of_forall fun p ↦ by fun_prop (disch := grind -abstractProof)
+    exact .of_forall fun p ↦ by
+      refine ContinuousOn.mul (by fun_prop) ?_
+      exact ContinuousOn.sub (ContinuousOn.rpow (by fun_prop) (by fun_prop) (by grind))
+        (by fun_prop)
```
Comment (dupuisf) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]: I have no idea why this `fun_prop` call broke. It now complains about not being able to infer the set on which `continuousOn_const` is applied.

Comment (j-loreaux) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]: The issue (apparently) is that `DifferentiableOn.rpow_const` is not imported now. I found this by comparing the `fun_prop` traces (with `set_option trace.Meta.Tactic.fun_prop true in`) on both master and this PR.

I couldn't quite tease out which import changes caused this problem, but `import Mathlib.Analysis.SpecialFunctions.Pow.Deriv` fixes it.

**Review by j-loreaux — COMMENTED** [review]
I asked about whether we want to start privatizing imports from the ground up here: [#mathlib4 > Mathlib has moved to the new module system @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Mathlib.20has.20moved.20to.20the.20new.20module.20system/near/561488140), or whether it's fine to start with the leaves.

**Comment by j-loreaux** [comment]
bors d+
